US07935830B2
Step B. N-Ethylcarbamate-5-(2,6-difluorophenyl)-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
2,6-Difluorophenylboronic acid (41 mg, 0.26 mmol), Pd(dppf) (5 mg), and Et3N (0.2 mL) were added to a solution of N-ethylcarbamate-5-triflate-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole (52 mg, 0.13 mmol) in DME (2.6 mL), and stirred overnight at 90° C. The solution was cooled to room temperature, partitioned between CH2Cl2 and H2O, and filtered through an Extrelut column. The column was washed with CH2Cl2, and the filtrate was concentrated. The crude product was obtained without further purification. MS calculated for C21H21F2NO2+H: 358, observed: 358.

reactant | 2,6-Difluorophenylboronic acid | 0.26 mmol, 41 mg | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | Et3N | 0.2 mL | CCN(CC)CC | C6H15N
reactant | DME | 2.6 mL | COCCOC | C4H10O2
product | N-Ethylcarbamate 5-(2,6-difluorophenyl)-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | C(C)NC([O-])=O.FC1=C(C(=CC=C1)F)C=1C=CC=2C(C3C(CNC3)C2C1)C | InChI=1S/C18H17F2N.C3H7NO2/c1-10-12-6-5-11(18-16(19)3-2-4-17(18)20)7-13(12)15-9-21-8-14(10)15;1-2-4-3(5)6/h2-7,10,14-15,21H,8-9H2,1H3;4H,2H2,1H3,(H,5,6)/p-1
